US06051712
In an analogous manner to that previously described, by alkylating tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(isoquinolin-6-ylmethoxy)-piperidine-1-carboxylate with methyl iodide in chloroform and subsequently reducing with sodium borohydride in methanol there was obtained tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(2-methyl-1,2,3,4-tetrahydro-isoquinolin-6-ylmethoxy)-piperidine-1-carboxylate, which was used in the next step as the crude product without further characterization.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(isoquinolin-6-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC=1C=C2C=CN=CC2=CC1 | C36H42N2O5
reactant | methyl iodide | CI | CH3I
reactant | sodium borohydride | [BH4-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(2-methyl-1,2,3,4-tetrahydro-isoquinolin-6-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC=1C=C2CCN(CC2=CC1)C | C37H48N2O5
